data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-C2CCCCC2_4-COCC","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(C2CCCCC2)(=C)N1CCCC1","C(COCC)Br"],"products_smiles": ["C(=O)(C2CCCCC2)CC(COCC)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C2CCCCC2)(=[N+]1CCCC1)CC(COCC)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C2CCCCC2)(N1CCCC1)(CCCOCC)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C2CCCCC2)([NH+]1CCCC1)(CCCOCC)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C2CCCCC2)(=[OH+])CC(COCC)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C2CCCCC2)CC(COCC)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-241_1-c1ccccc1_2-c1ccccc1C_3-c1ccc(C#N)cc1_4-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccccc1C(=O)[H]","c1ccccc1COC(=O)CP(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccccc1/C=C\\C(=O)Oc1ccccc1C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1COC(=O)[CH-]P(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C(P(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F))C([O-])c1ccccc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C1C(c1ccccc1)OP1([O-])(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1/C=C\\C(=O)Oc1ccccc1C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
